US06313118B1
(R)-2-Amino-5-methoxy-8-(1-methylpiperidin-4-yl)-1,2,3,4-tetrahydronaphthalene
(R)-8-Bromo-2-N,N-dibenzylamino-5-methoxy-1,2,3,4-tetrahydronaphthalene (6.8 g, 16 mmol) was dissolved in anhydrous tetrahydrofuran (100 mL) under nitrogen atmosphere. The solution was cooled to −78° C. and n-butyllithium (11.7 mL, 1.6 M, 19 mmol) was added dropwise during 3 minutes. The mixture was stirred for 5 min and N-methyl-4-piperidone (5.4 g, 48 mmol) was added during 3 min. The cooling bath was removed and the temperature was allowed to rise to 0° C. before the reaction was quenched by the addition of water. The layers were separated and the organic layer was dried (MgSO4). The solvent was removed in vacuo to give a residue which was purified by crystallization (ethyl acetate/hexane). Yield 5.8 g (77%): EIMS (70 eV) m/z (relative intensity) 470 (2, M+). The crystals (4.6 g, 9.8 mmol) were dissolved in toluene and p-toluenesulfonic acid (2.8 g, 15 mmol) was added and the reaction was stirred at reflux for 8 h under nitrogen with azeotropic removal of water in a Dean-Stark trap. The cooled reaction mixture was washed with a 2 M aqueous solution of sodium hydroxide and the phases were separated, dried (MgSO4), filtered and evaporated in vacuo to give a viscous oil: EIMS (70 eV) m/z (relative intensity) 452 (1, M+). The oil (0.6 g, 1.3 mmol) was dissolved in a solution of methanol (30 mL) and water (15 mL) and ammonium formate (1.7 g, 26 mmol) and palladium (0.3 g: 10% on activated carbon) was added. The mixture was refluxed for 45 min and the palladium was filtered off. The solvent was evaporated in vacuo and the residue was partitioned between ethyl acetate and a 2 M solution of ammonium hydroxide. The organic phase was separated, dried (Na2SO4), filtered and evaporated in vacuo to give 300 mg (95% yield) of the title compound.

reactant | n-butyllithium | 19 mmol, 1.6 M, 11.7 mL | C(CCC)[Li]
reactant | N-methyl-4-piperidone | 48 mmol, 5.4 g | CN1CCC(CC1)=O | C6H11NO
reactant | p-toluenesulfonic acid | 15 mmol, 2.8 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | ammonium formate | 26 mmol, 1.7 g | C(=O)[O-].[NH4+]
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | methanol | 30 mL | CO | CH4O
solvent | water | 15 mL | O | H2O
catalyst | palladium | 0.3 g | [Pd] | Pd
product | (R)-2-Amino-5-methoxy-8-(1-methylpiperidin-4-yl)-1,2,3,4-tetrahydronaphthalene | 300 mg, 95% yield | N[C@H]1CC2=C(C=CC(=C2CC1)OC)C1CCN(CC1)C | C17H26N2O
